US06350762B1
1) Synthesis of 2-acetyl-3-(3-nitrophenyl)-N-(3-phenyl-2-propene-1-yl)acrylamide
1.03 g (4.74 mmol) of 3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide, 723 mg (4.78 mmol) of 3-nitrobenzaldehyde and 0.2 ml (2.02 mmol) of piperidine were heated under reflux in the presence of a catalytic amount of p-toluenesulfonic acid in 30 ml of benzene overnight while water was removed. Ethyl acetate was added to the reaction mixture. After washing with 2 N hydrochloric acid and then with a saturated aqueous sodium hydrogencarbonate solution, the organic layer was dried over anhydrous sodium sulfate. After the concentration under reduced pressure, the residue was purified by the silica gel chromatography (hexane/ethyl acetate=2/1) to obtain the title compound.

reactant | 3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide | 4.74 mmol, 1.03 g | O=C(CC(=O)NCC=CC1=CC=CC=C1)C | C13H15NO2
reactant | 3-nitrobenzaldehyde | 4.78 mmol, 723 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | piperidine | 2.02 mmol, 0.2 ml | N1CCCCC1 | C5H11N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-acetyl-3-(3-nitrophenyl)-N-(3-phenyl-2-propene-1-yl)acrylamide | C(C)(=O)C(C(=O)NCC=CC1=CC=CC=C1)=CC1=CC(=CC=C1)[N+](=O)[O-] | C20H18N2O4
